US04346088
3-sec.-Butyl-4-(4-chloro-3-dimethylsulfamoylphenyl)-2-phenylimino-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1(a), from 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone and 3-sec.-butyl-1-phenylthiourea, or by a procedure analogous to that of Example 1(b), from 3-sec.-butyl-4-(4-chloro-3-dimethylsulfamoylphenyl)-2-phenyliminothiazolidin-4-ol hydrobromide. Colorless crystals; melting point 250° C. (with decomposition).

reactant | 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H11BrClNO3S
reactant | 3-sec.-butyl-1-phenylthiourea | C(C)(CC)NC(NC1=CC=CC=C1)=S | C11H16N2S
reactant | 3-sec.-butyl-4-(4-chloro-3-dimethylsulfamoylphenyl)-2-phenyliminothiazolidin-4-ol hydrobromide | Br.C(C)(CC)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)=NC1=CC=CC=C1
product | 3-sec.-Butyl-4-(4-chloro-3-dimethylsulfamoylphenyl)-2-phenylimino-4-thiazoline hydrobromide | Br.C(C)(CC)N1C(SC=C1C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)=NC1=CC=CC=C1 | InChI=1S/C21H24ClN3O2S2.BrH/c1-5-15(2)25-19(14-28-21(25)23-17-9-7-6-8-10-17)16-11-12-18(22)20(13-16)29(26,27)24(3)4;/h6-15H,5H2,1-4H3;1H
